US08685986B2
15-(b) 4-(Thiazol-4-yl)benzyl Alcohol
Reaction and post-treatment were carried out in the same manner as in Reference Example 4-(a) except for using 4-(thiazol-4-yl)benzaldehyde (1.28 g, 6:76 mmol) obtained in Reference Example 15-(a) in place of 4-(thiazol-2-yl)benzaldehyde to afford the title compound (1.07 g) as a white solid. (Yield: 83%)

reactant | 4-(thiazol-4-yl)benzaldehyde | 76 mmol, 1.28 g | S1C=NC(=C1)C1=CC=C(C=O)C=C1 | C10H7NOS
reactant | 4-(thiazol-2-yl)benzaldehyde | S1C(=NC=C1)C1=CC=C(C=O)C=C1 | C10H7NOS
product | 4-(Thiazol-4-yl)benzyl Alcohol | 1.07 g, Yield: 83% | S1C=NC(=C1)C1=CC=C(CO)C=C1 | C10H9NOS
